US04771072
2-Bromo-4,5-methylenedioxybenzaldehyde dimethylacetal, 3,4-dimethoxybenzaldehyde and dimethyl acetylenedicarboxylate are treated in the same manner as described in Example 1, whereby 1-(3,4-dimethoxyphenyl)-2,3-bis(methoxycarbonyl)-4-hydroxy-6,7-methylenedioxynaphthalene is obtained as colorless crystals.

reactant | 2-Bromo-4,5-methylenedioxybenzaldehyde dimethylacetal | COC(C1=C(C=C2C(=C1)OCO2)Br)OC | C10H11BrO4
reactant | 3,4-dimethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | dimethyl acetylenedicarboxylate | C(#CC(=O)OC)C(=O)OC | C6H6O4
product | 1-(3,4-dimethoxyphenyl)-2,3-bis(methoxycarbonyl)-4-hydroxy-6,7-methylenedioxynaphthalene | COC=1C=C(C=CC1OC)C1=C(C(=C(C2=CC3=C(C=C12)OCO3)O)C(=O)OC)C(=O)OC | C23H20O9
